US06433174B1
Synthesis of (±)-10-Amino-2-[4-(N-methyl)amino-3-(3,4-dichlorophenyl)butyl]-1.2,3,4,6,7,8,9-octahydrobenzo[b][1,6]-naphthyridine
A tetrahydrofuran solution (1 ml) of (±)-10-amino-2-[3-(3,4-dichlorophenyl)-4-methylamino-1,4-dioxobutyl]-1,2,3,4,6,7,8,9-octahydrobenzo[b][1,6]-naphthyridine (55 mg, 0.119 mmol) was added to a tetrahydrofuran solution (0.92N, 2.59 ml, 2.38 mmol) of a borane-tetrahydrofuran complex under cooling with ice water, and the solution was stirred for one hour and then refluxed under heating for 2 hours. The reaction solution was again cooled with ice water, then methanol (2 ml) was added thereto with case, and the solution was stirred for one hour. The reaction solution was concentrated under reduced pressure and the residue was dissolved in tetrahydrofuran (1 ml), to which 4N hydrogen chloride/dioxane (2 ml) was added under cooling with ice water with care and the mixture was refluxed under heating for one hour. The reaction solution was concentrated and the residue was neutralized with a sodium hydroxide solution and extracted with dichloromethane. The obtained organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (basic silica gel, dichloromethane/methanol=40/1) to obtain the title compound (37.9 mg, 74%) as an colorless oil.

reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | (±)-10-amino-2-[3-(3,4-dichlorophenyl)-4-methylamino-1,4-dioxobutyl]-1,2,3,4,6,7,8,9-octahydrobenzo[b][1,6]-naphthyridine | 0.119 mmol, 55 mg | NC1=C2C(=NC=3CCN(CC13)C(CC(C(=O)NC)C1=CC(=C(C=C1)Cl)Cl)=O)CCCC2 | C23H26Cl2N4O2
reactant | tetrahydrofuran | 2.38 mmol, 0.92N, 2.59 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
product | (±)-10-Amino-2-[4-(N-methyl)amino-3-(3,4-dichlorophenyl)butyl]-1.2,3,4,6,7,8,9-octahydrobenzo[b][1,6]-naphthyridine | 37.9 mg, 74% | NC1=C2C(=NC=3CCN(CC13)CCC(CNC)C1=CC(=C(C=C1)Cl)Cl)CCCC2 | C23H30Cl2N4
